US07709509B2
To a solution of 89.3 mg of 4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-N-hydroxy-2-trifluoromethyl-benzamidine in 2 ml of anhydrous dichloromethane were added 92 μl pyridine followed by 21.6 μl phenylchloroformate dropwise. The resulting mixture was stirred at room temperature for 1 h. The solvent was removed in vacuo. To a solution of the resulting residue in 2.5 ml of acetonitrile was added 88 μl of 1,8-diazabicyclo[5.4.0]undec-7-ene. The mixture was stirred under microwave heating at 180° C. for 10 minutes (or stirred at room temperature overnight). The solvent was removed in vacuo and the crude product was purified by column chromatography on silica gel (heptane 1/ethyl acetate 1 then dichloromethane 95/methanol 5 followed by another column with dichloromethane 90/acetone 10) to give 65 mg of 3-{4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-trifluoromethyl-phenyl}-4H-[1,2,4]oxadiazol-5-one.

reactant | 4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-N-hydroxy-2-trifluoromethyl-benzamidine | 89.3 mg | C(CCC)C=1N=C(SC1COC1=CC(=C(C(=N)NO)C=C1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C23H21F6N3O2S
reactant | pyridine | 92 μl | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 21.6 μl | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 3-{4-[4-butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-ylmethoxy]-2-trifluoromethyl-phenyl}-4H-[1,2,4]oxadiazol-5-one | 65 mg | C(CCC)C=1N=C(SC1COC1=CC(=C(C=C1)C1=NOC(N1)=O)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F | C24H19F6N3O3S
